* C:\sandbox\spicelib_dev\examples\testfiles\Qspice_bug_floating_net.qsch
V1 N01 0 48
R1 N01 N02 1µ
L1 N02 Vin 5µ
C1 Vin 0 600µ
C2 N03 0 100µ
R4 Vout 0 80m
R5 Vout N03 1m
R7 N02 Vin 1
X1 Vin Vout N04 Qspice_bug_floating_net_X1

.subckt Qspice_bug_floating_net_X1 input output some_measurement
R2 input N01 10µ
L2 N02 output 10µ
R6 some_measurement N02 1m
V2 N03 0 pulse 0 1 0 10n 10n 2.5µ 10µ
D1 0 some_measurement D
D2 some_measurement N01 D
R1 N01 some_measurement 1
.model SW SW(Ron=1Âµ Roff=1Meg Vt=.5 Vh=-.4)
.lib C:\PROGRA~1\QSPICE\Diode.txt
.ends Qspice_bug_floating_net_X1

.tran 100Âµ 10m 10Âµ 100n
.plot V(Vout)
.end
